Name:  ___            Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
cefepime / Advil / antibiotics - due to C. diff -Must use oral 
vancomycin with ALL ABX
 
Attending: ___
 
Chief Complaint:
leg pain
 
Major Surgical or Invasive Procedure:
___ left hip ORIF 
 
History of Present Illness:
___ with hx of dementia (AO x 1 at baseline), anemia, HTN,
arthritis, hx recurrent C. Diff, who is presenting with 2 days 
of
increasing fatigue and leg pain. 

Per review of ED documentation and confirmed with granddaughter,
her granddaughter lives next door and states that over the past 
2
days she has not been wanting to get out of bed, complaining of
increasing leg discomfort and also having increasing difficulty
breathing today. She has a caretaker at home ___ and states 
that
she had a slip yesterday for which the caretaker caught her and
she did not fall or have a head strike that was witnessed. Since
then, she has not been wanting to walk and has had increased
respiratory difficulties and fatigue with generalized weakness.
Granddaughter called PCP's office who recommended she present to
ED for evaluation.

In the ED,  

Initial Vitals: 
97 
95 
122/57 
81% 2L NC

And subsequently developed T to 100.4. Imaging revealed L
subcapital femoral neck fracture, likely cystitis, "focal mild
intrahepatic biliary duct dilatation in segment VIII with
apparent surrounding mild hyperemia, concerning for 
cholangitis,"
with trace bilateral pleural effusions and adjacent atelectasis
at the lung bases. She was given CTX, azithromycin, zosyn, PO
vanc, and 100mg IV hydrocortisone.  

Ortho consulted in ED, recommended keeping NPO for possible OR 
in
AM.

 
Past Medical History:
- Cefepime toxicity requiring Dialysis  
- Non-convulsive status epilepticus  
- Subdural hematoma
- Anemia  
- Osteomyelitis  
- Hypertension  
- Subdural hematoma s/p burrhole in ___  
- Osteoarthritis  
- shingles infection in ___  
- Orthostatic hypotension
- Asymptomatic bacteriuria
- C. difficile colitis
- Spinal stenosis
- Anxiety
- Dysphagia
- Constipation
- Gait disorder
- Major neurocognitive disorder
- Hypothyroidism
- Osteoporosis 
 
Social History:
___
Family History:
Mother deceased age ___, chronic obstructive pulmonary disease.  
Father deceased age ___, stroke.
 
Physical Exam:
ADMISSION PHYSICAL EXAM: 
======================== 
VS: Reviewed in metavision
GEN: Lying in bed, NAD  
EYES: PERRLA, EOMI, no scleral icterus 
HENNT: Dry MM, no JVD 
CV: RRR no r/m/g
RESP: CTAB on anterior exam
GI: Soft, NTND 
EXT: WWP, no ___ edema  
SKIN: Warm, dry
NEURO: Alerts to examiner. Face symmetric, moving all
extremities. 

DISCHARGE PHYSICAL EXAM: 
======================== 
___ 0726 Temp: 97.9 PO BP: 132/67 HR: 95 RR: 18 O2 sat: 92%
O2 delivery: Ra  
GENERAL:  Speaking in ___ & ___, appears upbeat but not
fully coherent.
HEENT: JVD at mid neck at 30 degrees. negative HJR
CARDIAC: Regular rhythm, normal rate. No murmurs auscultated.
LUNGS: Crackles at right lung base. 
ABDOMEN: Soft, nondistended, non-tender to palpation.
EXTREMITIES: Feet are warm and well perfused. No lower extremity
edema. Upper extremity cog wheeling appreciated
MSK: L hip with dressing c/d/i, no bleeding, erythema, 
purulence.
No tenderness to palpation.
NEUROLOGIC: Alert, as above.

 
Pertinent Results:
ADMISSION LABS: 
===============
___ 08:43PM BLOOD WBC-9.0 RBC-3.27* Hgb-10.6* Hct-33.1* 
MCV-101* MCH-32.4* MCHC-32.0 RDW-13.1 RDWSD-48.6* Plt ___
___ 08:43PM BLOOD Neuts-68.6 Lymphs-15.9* Monos-5.5 
Eos-8.6* Baso-0.8 Im ___ AbsNeut-6.18* AbsLymp-1.43 
AbsMono-0.49 AbsEos-0.77* AbsBaso-0.07
___ 08:43PM BLOOD ___ PTT-28.0 ___
___ 08:43PM BLOOD Glucose-110* UreaN-28* Creat-1.2* Na-139 
K-5.6* Cl-103 HCO3-26 AnGap-10
___ 08:43PM BLOOD ALT-20 AST-59* AlkPhos-83 TotBili-0.4
___ 08:43PM BLOOD proBNP-2044*
___ 08:43PM BLOOD cTropnT-<0.01
___ 08:43PM BLOOD Albumin-3.3* Calcium-9.6 Phos-3.5 Mg-1.8
___ 08:43PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-16 
Tricycl-NEG
___ 08:50PM BLOOD ___ pO2-33* pCO2-43 pH-7.43 
calTCO2-29 Base XS-3 Intubat-NOT INTUBA

LAST LABS PRIOR TO DISCHARGE
============================
___ 06:52AM BLOOD WBC-7.3 RBC-3.10* Hgb-9.9* Hct-31.4* 
MCV-101* MCH-31.9 MCHC-31.5* RDW-13.1 RDWSD-48.6* Plt ___
___ 07:44AM BLOOD Glucose-87 UreaN-30* Creat-0.8 Na-142 
K-4.2 Cl-103 HCO3-25 AnGap-14
___ 07:00AM BLOOD ALT-11 AST-20 AlkPhos-86 TotBili-0.4
___ 07:00AM BLOOD ___ 07:44AM BLOOD Calcium-9.4 Phos-4.5 Mg-2.3

STUDIES: 
========
CHEST (PORTABLE AP) Study Date of ___  
1. No focal consolidation. 
2. Interstitial markings appear slightly more prominent compared 
with prior, and mild interstitial edema cannot be excluded.  No 
large pleural effusion. 

CTA CHEST  Study Date of ___  
1. Evaluation of the segmental and subsegmental pulmonary 
arteries is limited due to respiratory motion. No central 
pulmonary embolism. 
2. Trace bilateral pleural effusions and adjacent atelectasis at 
the lung 
bases. No convincing evidence for pneumonia, with evaluation of 
the lung 
parenchyma limited by respiratory motion. 
3. New focal mild intrahepatic biliary duct dilatation in 
segment VIII with apparent surrounding mild hyperemia, could 
relate to cholangitis if this is of clinical concern. 
4. Bladder wall thickening, hyperemia and surrounding fat 
stranding, 
concerning for cystitis.  Correlate with urinalysis. 
5. Subcapital left femoral neck fracture. 

CT HEAD W/O CONTRAST Study Date of ___ 
1. Motion and dental amalgam streak artifact limits study. 
2. No acute intracranial process.  Please note MRI of the brain 
is more 
sensitive for the detection of acute infarct. 
3. Nonspecific complete opacification of the right mastoid air 
cells, 
increased compared with ___. 
4. Paranasal sinus disease, grossly similar to priors. 

CT C-SPINE W/O CONTRAST Study Date of ___ 
1.  Dental amalgam and overlying hardware streak artifact and 
diffuse 
osteopenia limits study. 
2.  Within limits of study, no definite evidence of acute 
fracture or 
traumatic malalignment. 
3. Grossly stable extensive multilevel cervical spondylosis 
compared to ___ prior exam, as described. 
4. No significant change in a 1.5 cm right thyroid nodule, for 
which 
outpatient thyroid ultrasound could again be considered if 
clinically 
appropriate. 
5. Motion degraded limited imaging of the lungs demonstrate 
extensive probable pleuroparenchymal scarring, as described.  If 
concern for pulmonary infectious, inflammatory, or neoplastic 
opacities, consider correlation with dedicated chest imaging. 
  
RECOMMENDATION(S):  Outpatient thyroid ultrasound if clinically 
appropriate. 

PELVIS AP ___ VIEWS Study Date of ___  
Possible nondisplaced left femoral neck fracture for which 
dedicated views are needed to further assess. 

HIP UNILAT MIN 2 VIEWS LEFT Study Date of ___ 
Left subcapital femoral neck fracture.

CHEST (PORTABLE AP) Study Date of ___  
Finding suggests mild pulmonary edema.

 
Brief Hospital Course:
___ with hx of dementia (? ___ Body, described below), 
arthritis, hx recurrent C. Diff who presented with weakness and 
hypoxia in setting of a fall requiring admission to the MICU for
hypoxia likely secondary to pulmonary edema, improved with 
diuresis and now on room air. Hospital course otherwise notable 
for L femoral neck fracture s/p ORIF and cystitis s/p abx 
course.
 
ACUTE ISSUES  
=============== 
#Hypoxia:
#Pulmonary Edema

Patient presented with elevated BNP and new oxygen requirement, 
requiring non rebreather in the ED that was quickly reduced to 4 
L nasal cannula. Patient BNP was elevated (___) and CXR showed 
significant pulmonary edema. CTA partially exonerated PE-- 
limited by respiratory
motion but no central PE. Patient O2 requirement decreased with 
fluid removal and was able to be weaned to room air at time of 
discharge. She experienced occasional desaturations on nasal 
cannula primarily in the setting of mouth breathing that 
immediately resolved on delivery of equivalent oxygen with face 
mask. She was initiated on PO Lasix 20 regimen for maintenance 
after leaving the hospital.

#L femoral neck fracture s/p ORIF
Pt presented with leg pain after slipping at home. She was found 
to have a left
subcapital femoral neck fracture seen requiring ORIF on ___ 
without any complications and minimal blood loss. She was given 
standing Tylenol for post operative pain and evaluated by 
physical therapy and orthopedic surgery throughout 
hospitalization. She was maintained on Lovenox for DVT ppx. She 
will be discharged to rehab and is being scheduled for 
Orthopedics f/u.

#UTI
On arrival, patient found to have Leuks/nitrites in UA with 
imaging findings c/w cystitis. Her urine culture grew pan 
susceptible proteus. She was not  febrile or hemodynamically 
unstable. Pt was initiated on zosyn however was able to be 
switched to Ceftriaxone and completed a three day course.

# Acute delirium on chronic Dementia
# ___ Body Dementia
Patient reported to have dementia with hallucinations at home, 
as
well as orthostatic hypotension and cogwheeling on exam. 
Clinical
picture most consistent with ___ body dementia. Patient mental
status improved with family in the room and her poor mental 
status throughout hospitalization (AOx0-1) most consistent with 
delirium in setting of advanced dementia. 

#Concern for Cholangitis:
Imaging findings on CTA chest on admission concerning for 
cholangitis.
However, patient without obstructive LFT pattern, no clear RUQ
pain and additional work up was deferred. 

CHRONIC/STABLE ISSUES  
===============  
___, resolved: Cr 1.2 from baseline 0.8 on arrival, likely 
pre-renal i/s/o
decreased PO intake from AMS. Resolved after 1L IVF

#Hx recurrent C. Diff
-Patient was given PO Vancomycin with abx for ppx, which was 
discontinued with completion of course

#Orthostatic hypotension:
-home fludrocortisone

#Thyroid nodules
TSH previously stable ___. Never on therapy. Patient 
found
to have Multinodular thyroid gland on prior CT C-spine. Largest
nodule measures 1.5 cm, for which thyroid ultrasound is
recommended. Given patient age and cognitive decline, diagnostic
thyroid US was deferred.

New Medications: Lasix 20 daily
Changed Medications: None
Held Medications: None
[ ] Consider TTE for patient if pulmonary edema recurs
[ ] Consider additional neurological work up for likely ___ 
body dementia (currently undiagnosed)
[ ] AVOID antipsychotics in patient with likely ___ body 
dementia
[ ] Ensure patient attends all post operative appointments 
[ ] D/c Lovenox ppx after 4 weeks post surgery ___ last 
day)
#CODE STATUS: DNR/DNI  
#EMERGENCY CONTACT:  
Name of health care proxy: ___ (granddaughter)
Phone number: ___ 
 
___ on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Acetaminophen 650 mg PO Q6H:PRN Pain - Mild/Fever 
2. Fludrocortisone Acetate 0.1 mg PO DAILY 
3. TraZODone 50 mg PO QHS 
4. Calcium 600 + D(3) (calcium carbonate-vitamin D3) 600 
mg(1,500mg) -400 unit oral BID 
5. cranberry extract ___ mg oral BID 
6. diclofenac sodium 1 % topical QID:PRN pain 
7. Lidocaine 5% Patch 1 PTCH TD QAM 
8. Polyethylene Glycol 17 g PO DAILY 
9. TraMADol 50 mg PO QID 

 
Discharge Medications:
1.  Enoxaparin Sodium 30 mg SC QHS  
2.  Furosemide 20 mg PO DAILY  
3.  Ipratropium-Albuterol Neb 1 NEB NEB Q6H  
4.  Acetaminophen 1000 mg PO Q8H  
5.  Calcium 600 + D(3) (calcium carbonate-vitamin D3) 600 
mg(1,500mg) -400 unit oral BID  
6.  cranberry extract ___ mg oral BID  
7.  diclofenac sodium 1 % topical QID:PRN pain  
8.  Fludrocortisone Acetate 0.1 mg PO DAILY  
9.  Lidocaine 5% Patch 1 PTCH TD QAM  
10.  Polyethylene Glycol 17 g PO DAILY  
11.  TraZODone 50 mg PO QHS  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS:
=================
Pulmonary Edema
Hip Fracture

SECONDARY DIAGNOSIS:
===================
___ Body Dementia
Urinary Tract Infection

 
Discharge Condition:
Mental Status: Confused - always.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Dear Ms. ___,

Thank you choosing to receive your care at ___.

WHY WAS I HERE?
-You came to the hospital after a fall in the setting of 
shortness of breath.

WHAT HAPPENED WHILE I WAS HERE?
-You were found to have a fracture in the bone in your hip 
requiring surgery that occurred without complication
-You had difficulty breathing due to fluid in your lungs and 
were given medication to help remove the fluid. Your breathing 
improved.

WHAT SHOULD I DO ONCE I LEAVE THE HOSPITAL?
-Take all of your medications as prescribed
-Continue to work with physical therapy to help you recover 
after surgery.

It was a pleasure taking care of you. We wish you the best.

___ Care Team
 
Followup Instructions:
___